US07592357B2
Step 1. Methyl 4-(4-fluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate
4-Fluorobenzaldehyde (0.997 mL, 9.30 mmol, 1.00 equiv), 2,2-dimethyl-1,3-dioxane-4,6-dione (1.34 g, 9.30 mmol, 1.00 equiv), methyl acetoacetate (1.00 mL, 9.30 mmol, 1.00 equiv), and ammonium acetate (0.752 g, 9.77 mmol, 1.05 equiv) were dissolved in acetic acid (10 mL) and heated to reflux for 3.5 hours. The reaction mixture was diluted with EtOAc and water, and neutralized with 2N NaOH. The phases were separated, and the organic phase was washed with satd. NaHCO3, then NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to a yellow residue. Recrystallization (CH2Cl2/hexanes) provided 480 mg (20%) of the product as a pale yellow solid. MS (ES+) m/e 264 [M+H]+.

reactant | 4-Fluorobenzaldehyde | 9.30 mmol, 0.997 mL, 1.00 equiv | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 9.30 mmol, 1.34 g, 1.00 equiv | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | methyl acetoacetate | 9.30 mmol, 1.00 mL, 1.00 equiv | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonium acetate | 9.77 mmol, 0.752 g, 1.05 equiv | C(C)(=O)[O-].[NH4+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Methyl 4-(4-fluorophenyl)-2-methyl-6-oxo-1,4,5,6-tetrahydro-3-pyridinecarboxylate | 480 mg, 20% | FC1=CC=C(C=C1)C1C(=C(NC(C1)=O)C)C(=O)OC | C14H14FNO3
